US07307076B2
d) 5-acetyl-7-benzyloxy-1H-quinolin-2-one
13.0 g (44 mmol) 5-acetyl-7-benzyloxy-3,4-dihydro-1H-quinolin-2-one are suspended in 130 mL dioxane and combined with 15.0 g (66 mmol) 2,3-dichloro-5,6-dicyanobenzoquinone. The mixture is refluxed for 30 minutes, cooled to ambient temperature and stirred for a further 2 hours. The solid is filtered off, washed with dioxane and dissolved in 600 mL dichloromethane/methanol (9:1). The solution is washed with sodium hydrogen carbonate solution, dried with sodium sulphate and evaporated down. Then the residue is suspended in methanol, filtered and dried.

reactant | 5-acetyl-7-benzyloxy-3,4-dihydro-1H-quinolin-2-one | 44 mmol, 13.0 g | C(C)(=O)C1=C2CCC(NC2=CC(=C1)OCC1=CC=CC=C1)=O | C18H17NO3
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 66 mmol, 15.0 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 130 mL | O1CCOCC1 | C4H8O2
product | 5-acetyl-7-benzyloxy-1H-quinolin-2-one | C(C)(=O)C1=C2C=CC(NC2=CC(=C1)OCC1=CC=CC=C1)=O | C18H15NO3
